US05728835
4-Nitro-N-(3-nitrophenyl)benzamide
Using 3-nitroaniline (2.76 g, 16.5 mmol) and 4-nitrobenzoic acid (2.51 g, 15.0 mmol), the procedure of Reference Example 16 was repeated to obtain 3.58 g (83.2%) of the title compound in the form of light yellow crystals.

reactant | 3-nitroaniline | 16.5 mmol, 2.76 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | 4-nitrobenzoic acid | 15.0 mmol, 2.51 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 4-Nitro-N-(3-nitrophenyl)benzamide | 3.58 g, 83.2% | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C13H9N3O5
